US06461876B1
(a) Synthesis of 2-Phenoxyethyl 3-hydroxybenzoate (53)
Into a 250 mL round bottom flask equipped with magnetic stirrer and heating mantle was added 16.0 parts of 3-hydroxy benzoic acid, 100 parts of 2-phenoxyethanol and 0.5 parts of concentrated sulfuric acid. The reaction mixture was heated at 95° C. for 48 hours. The excess of 2-phenoxyethanol was evaporated under reduced pressure at 90° C. The solid material was dissolved in 250 mL of ethyl acetate. The organic layer was first washed with 200 mL of water, second with 250 mL of 5% solution of sodium bicarbonate in water and finally washed with 3×250 mL of water. The ethyl acetate layer was dried over anhydrous sodium sulfate and the solvent was evaporated under reduced pressure. This material was purified by chromatography on silica gel using 20% ethyl acetate/hexane. The desired fractions were combined and solvent was evaporated to give an oily material which on treatment with hexane gave a solid, yield 5.1 parts. TLC on silica gel plate showed single spot. The structure of the product was confirmed on the basis of 1H NMR. The reaction proceeded as follows:

reactant | 3-hydroxy benzoic acid | OC=1C=C(C(=O)O)C=CC1 | C7H6O3
reactant | 2-phenoxyethanol | O(C1=CC=CC=C1)CCO | C8H10O2
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
product | 2-Phenoxyethyl 3-hydroxybenzoate | OC=1C=C(C(=O)OCCOC2=CC=CC=C2)C=CC1 | C15H14O4
